US07919629B2
100 mmol of N-methyl-N-ethylaniline (Aldrich) were quaternized with 100 mmol of bromopropane (Aldrich) at reflux in 100 ml of acetonitrile for 48 hours. After evaporation of the solvent, the N-propyl-N-methyl-N-ethylanilinium bromide (PMEA.Br) obtained was purified by washing with ether. 50 mmol of KBFST were added to 50 mmol of PMEA.Br in 100 ml of water, and then the solution was extracted with twice 50 ml of dichloromethane. After evaporation of the solvent and drying under vacuum, PMEA.BFST was obtained. The two optical isomer forms of this salt were separated on a chiral column. The two optical isomers isolated serve as a chiral reaction medium.

reactant | N-methyl-N-ethylaniline | 100 mmol | CN(C1=CC=CC=C1)CC | C9H13N
reactant | bromopropane | 100 mmol | BrCCC | C3H7Br
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | N-propyl-N-methyl-N-ethylanilinium bromide | [Br-].C(CC)[N+](C1=CC=CC=C1)(CC)C | InChI=1S/C12H20N.BrH/c1-4-11-13(3,5-2)12-9-7-6-8-10-12;/h6-10H,4-5,11H2,1-3H3;1H/q+1;/p-1
